US08580762B2
(1R,2S,3R,5R)-3-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(ethyl)amino)methyl)cyclopentane-1,2-diol
Trifluoroacetic Acid (20 mL) was added to a mixture of Water (2 mL) and 7-((3aS,4R,6R,6aR)-6-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(ethyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (0.85 g, 1.2 mmol) at RT. The reaction was allowed to proceed for one hour at which time Triethylsilane (0.37 mL, 2.3 mmol) was added. The volatiles were removed in vacuo and resulting residue was taken up in MeOH (3 mls), 1 ml of K2CO3 (saturated) was added and reaction stirred at RT for 1 hour. The mixture was partitioned between H2O and DCM/MeOH (9:1). The aqueous layer was extracted (3×) and the combined organics dried with MgSO4, filtered and concentrated. The resulting residue was purified by flash chromatography (DCM/7N NH3 in MeOH 90:10) to yield the desired product (0.150 g) as an off white foam. MS (ESI+) for C31H43N7O2 m/z 546.3 [M+H]+; MS (ESI−) for C31H43N7O2 m/z 544.3 [M−H]−; HPLC purity >91% (ret. time, 2.734 min.) 1H NMR (400 MHz, d4-MeOH) δH 8.081 (s, 1H), 7.493 (s, 1H), 7.414-7.393 (m, 1H), 7.291-7.266 (m, 1H), 7.215-7.202 (m, 1H), 6.619-6.609 (d, J=4.0 Hz, 1H), 4.345-4.312 (m, 1H), 3.923-3.885 (m, 1H), 2.994-2.915 (m, 0.5 H (methine of trans isomer)), 2.860-2.793 (m, 214), 2.701-2.578 (m, 3H), 2.501-2.380 (m, 2H), 2.259-2.234 (m, 2H), 2.109-2.008 (m, 314), 1.920-1.880 (m, 3H), 1.658-1.499 (m, 231), 1.364 (s, 9H), 1.036-0.991 (m, 3H). Retention time: 2.734 minutes. HPLC Conditions:Agilent Zorbax Exlipse XDB-C18 column, 4.6×50 mm (1.8 um packing), Solvent A—Water (0.1% TFA), Solvent B—Acetonitrile (0.07% TFA). 6 min gradient from 5 to 95% B; 1 min hold; then recycle

reactant | Trifluoroacetic Acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7-((3aS,4R,6R,6aR)-6-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(ethyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 1.2 mmol, 0.85 g | C(C)(C)(C)C1=CC2=C(NC(=N2)CCC2CC(C2)N(CC)C[C@H]2C[C@H]([C@H]3[C@@H]2OC(O3)(C)C)N3C=CC2=C3N=CN=C2NCC2=C(C=C(C=C2)OC)OC)C=C1 | C43H57N7O4
reactant | Triethylsilane | 2.3 mmol, 0.37 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | K2CO3 | 1 ml | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 3 mls | CO | CH4O
solvent | Water | 2 mL | O | H2O
product | (1R,2S,3R,5R)-3-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-(((3-(2-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(ethyl)amino)methyl)cyclopentane-1,2-diol | 0.150 g | NC=1C2=C(N=CN1)N(C=C2)[C@H]2[C@@H]([C@@H]([C@H](C2)CN(CC)C2CC(C2)CCC2=NC1=C(N2)C=CC(=C1)C(C)(C)C)O)O | C31H43N7O2
